US05504103
To a solution of wortmannin (100 mg) stirring in THF at -78° C. was added diisobutylaluminum hydride (0.4 mL of a 1.0M solution in toluene, 0.4 mmol). After 0.5 hour, the reaction was quenched with saturated aqueous NaHCO3. The mixture was then warmed to room temperature and extracted with CH2Cl2. The combined organic extracts were washed with brine and dried (MgSO4). The crude material was purified by radial chromatography (SiO2, 4 mm, 9:1 EtOAc/Hexanes) to give a 70% yield of 17β-hydroxywortmannin as an off-white powder.

reactant | wortmannin | 100 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CCC2=O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H24O8
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 17β-hydroxywortmannin | 70% yield | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@]4([C@H](OC(=O)C5=COC(=C54)C3=O)COC)C)C | C23H26O8
